US07572820B2
A solution of 1,1-dimethylethyl 3-oxobutanoate (50 g, 0.32 mol) in MeOH (320 mL) and 30% ammonium hydroxide (280 mL) was stirred at ambient temperature overnight. The solution was neutralized carefully with conc. HCl (200 mL), partially concentrated at reduced pressure and extracted with EtOAc (2×300 mL). Combined organic phases were dried over Na2SO4, filtered and concentrated to afford 1,1-dimethylethyl (2Z)-3-amino-2-butenoate as an oil that crystallized on standing (54 g, 100% yield): 1H NMR (DMSO-d6) δ 7.63 (bs, 1H), 6.79 (bs, 1H), 4.18 (s, 1H), 1.74 (s, 3H), 1.35 (s, 9H).

reactant | 1,1-dimethylethyl 3-oxobutanoate | 0.32 mol, 50 g | O=C(CC(=O)OC(C)(C)C)C | C8H14O3
reactant | HCl | 200 mL | Cl | ClH
reactant | ammonium hydroxide | 280 mL | [OH-].[NH4+]
solvent | MeOH | 320 mL | CO | CH4O
product | 1,1-dimethylethyl (2Z)-3-amino-2-butenoate | 100% yield | N\C(=C/C(=O)OC(C)(C)C)\C | C8H15NO2
